US04070355
2-Methyl-8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepin-1,5-dione
To an ice-cooled, stirred solution of 3.7 g of 8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione in 100 ml of dried and distilled 1,2-dimethoxyethane is added, in a portionwise manner, 0.57 g of a 57% dispersion of sodium hydride in mineral oil. After the evolution of hydrogen has ceased (15 min), a solution of 1.79 g (0.014 mole) of methyl iodide is added, the ice bath removed and stirring continued at room temperature for 2 hours, followed by heating under reflux for 1 hour. The solvent is then removed by distillation. The residue is dissolved in 100 ml of chloroform, washed twice with 100 ml portions of water, dried and concentrated. Treatment of the residue with a small amount of ether precipitates the title compound which is filtered off, dried and recrystallized from ethyl acetate.

reactant | 8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione | 3.7 g | ClC=1C=CC2=C(N(C(C=C3N2C(N=N3)=O)=O)C3=CC=CC=C3)C1 | C16H9ClN4O2
reactant | methyl iodide | 0.014 mole, 1.79 g | CI | CH3I
product | 2-Methyl-8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepin-1,5-dione | CN1NC=2N(C3=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C3)Cl)C1=O | C17H13ClN4O2
